US06498165B1
2-[(S)-1-phenylethylamino]-4-[5-(pyrimidin-4-yl)aminobenzimidazol-1-yl]pyrimidine
2-[(S)-1-phenylethylamino]-4-[5-aminobenzimidazol-1-yl]pyrimidine (14.0 mg) was dissolved in 2 mL MeOH, 10%Pd/C (20.3 mg) added, the system fitted with a balloon of hydrogen, purging the system twice and leaving the reaction stirring at room temperature for 23 h. The mixture was then filtered through Celite®, washing thoroughly with methanol, and the solvent removed in vacuo. The residue was purified on silica gel (2-5%(2M NH3 in MeOH)/CH2Cl2) to yield 5.5 mg of the title compound. Mass spectrum (ESI) 409.4 (M+1).

reactant | 2-[(S)-1-phenylethylamino]-4-[5-aminobenzimidazol-1-yl]pyrimidine | 14.0 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)N | C19H18N6
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 2 mL | CO | CH4O
catalyst | Pd/C | 20.3 mg | [Pd] | Pd
product | 2-[(S)-1-phenylethylamino]-4-[5-(pyrimidin-4-yl)aminobenzimidazol-1-yl]pyrimidine | 5.5 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)NC2=NC=NC=C2 | C23H20N8
